US04737509
Under a dry argon atmosphere a stirred mixture of 4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3-methoxynitrobenzene (5.0 g, 0.014 mole), 4-chloroiodobenzene (3.4 g, 0.014 mole), and copper powder (4.6 g, 0.072 mole, 200 mesh) in dimethyl sulfoxide (75 mL) was heated at about 160° C. for approximately three hours. The reaction mixture was allowed to cool to room temperature and stirred for an additional 18 hours. The cool mixture was poured into 200 mL of 2N hydrochloric acid, the resultant mixture was extracted with three 100 mL portions of methylene chloride. The extracts were combined and washed in succession with 2N hydrochloric acid, an aqueous, saturated, sodium chloride solution, and 2N aqueous sodium hydroxide. The washed organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving an oil. This oil was purified by column chromatography on silica gel, eluting with n-heptane:toluene (90:10), to yield 1.4 g of 4-[2-(4-chlorophenyl)-1,1,2,2-tetrafluoroethoxy]-3-methoxynitrobenzene as an oil.

reactant | 4-(2-bromo-1,1,2,2-tetrafluoroethoxy)-3-methoxynitrobenzene | 0.014 mole, 5.0 g | BrC(C(OC1=C(C=C(C=C1)[N+](=O)[O-])OC)(F)F)(F)F | C9H6BrF4NO4
reactant | 4-chloroiodobenzene | 0.014 mole, 3.4 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | hydrochloric acid | 2N, 200 mL | Cl | ClH
solvent | dimethyl sulfoxide | 75 mL | CS(=O)C | C2H6OS
catalyst | copper | 0.072 mole, 4.6 g | [Cu] | Cu
product | 4-[2-(4-chlorophenyl)-1,1,2,2-tetrafluoroethoxy]-3-methoxynitrobenzene | 1.4 g | ClC1=CC=C(C=C1)C(C(OC1=C(C=C(C=C1)[N+](=O)[O-])OC)(F)F)(F)F | C15H10ClF4NO4
